US08058269B2
The mixture of rac-3-bromo-6-chloro-3-(3-chloro-benzyl)-1,3-dihydro-indol-2-one (100 mg, 0.270 mmol), 1-(4-trifluoromethyl-phenyl)-piperazine (75 mg, 0.324 mmol) and DIPEA (42 mg, 0.324 mmol) In acetonitrile (3 mL) was stirred at room temperature for overnight. The crude was concentrated and the residue was purified with preparative HPLC to give 76 mg of rac-6-chloro-3-(3-chloro-benzyl)-3-[4-(4-trifluoromethyl-phenyl)-piperazin-1-yl]-1,3-dihydro-indol-2-one as a white solid. MS: 520 (M+H)+. H1-NMR (400 MHz, CDCl3) δ 7.584 (s, 1H), 7.493 (d, 2H), 7.240 (d, 1H), 7.081 (t, 2H), 7.011 (t, 1H), 6.908 (d, 3H), 6.766 (d, 1H), 6.684 (d, 1H), 3.431 (d, 1H), 3.329-3.206 (m, 5H), 2.947 (t, 4H).

reactant | rac-3-bromo-6-chloro-3-(3-chloro-benzyl)-1,3-dihydro-indol-2-one | 0.270 mmol, 100 mg | BrC1(C(NC2=CC(=CC=C12)Cl)=O)CC1=CC(=CC=C1)Cl | C15H10BrCl2NO
reactant | 1-(4-trifluoromethyl-phenyl)-piperazine | 0.324 mmol, 75 mg | FC(C1=CC=C(C=C1)N1CCNCC1)(F)F | C11H13F3N2
reactant | DIPEA | 0.324 mmol, 42 mg | CCN(C(C)C)C(C)C | C8H19N
solvent | acetonitrile | 3 mL | C(C)#N | C2H3N
product | rac-6-chloro-3-(3-chloro-benzyl)-3-[4-(4-trifluoromethyl-phenyl)-piperazin-1-yl]-1,3-dihydro-indol-2-one | 76 mg | ClC1=CC=C2C(C(NC2=C1)=O)(N1CCN(CC1)C1=CC=C(C=C1)C(F)(F)F)CC1=CC(=CC=C1)Cl | C26H22Cl2F3N3O
